US04547501
(e) Preparation of 7-chloro-4-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline
A mixture consisting of 1.4 g. (0.0062 mole) of 6-chloro-2-hydrazino-3-methoxyquinoxaline and 20 ml. of triethyl orthoformate was heated with mechanical stirring in a preheated oil bath at 100° C. overnight (~16 hours). The resulting mixture was then cooled to room temperature, and the precipitate which formed was subsequently recovered by means of suction filtration and washed with ethanol to ultimately afford 1.0 g. (69%) of pure 7-chloro-4-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 250°-252° C.

reactant | 6-chloro-2-hydrazino-3-methoxyquinoxaline | 0.0062 mole | ClC=1C=C2N=C(C(=NC2=CC1)NN)OC | C9H9ClN4O
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
product | 7-chloro-4-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline | ClC=1C=C2N=C(C=3N(C2=CC1)C=NN3)OC | C10H7ClN4O
